US05326497
6.0 g of 5-trimethylsilyloxy-2-(4-bromophenyl)pyridine, 2.5 g of 4-penten-1-ol, 4 g of sodium bicarbonate solution, 20 ml of N-methylpyrrolidone, 0.03 g of palladium(II) acetate and 0.11 g of triphenylphosphine were reacted in an analogous manner to Example 1(b) to give 5.4 g of 5-trimethylsilyloxy-2-(4-[5-hydroxy-1-pentenyl]phenyl)pyridine.

reactant | 5-trimethylsilyloxy-2-(4-bromophenyl)pyridine | 6.0 g | C[Si](OC=1C=CC(=NC1)C1=CC=C(C=C1)Br)(C)C | C14H16BrNOSi
reactant | 4-penten-1-ol | 2.5 g | C(CCC=C)O | C5H10O
reactant | sodium bicarbonate | 4 g | C([O-])(O)=O.[Na+]
catalyst | palladium(II) acetate | 0.03 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 5-trimethylsilyloxy-2-(4-[5-hydroxy-1-pentenyl]phenyl)pyridine | 5.4 g | C[Si](OC=1C=CC(=NC1)C1=CC=C(C=C1)C=CCCCO)(C)C | C19H25NO2Si
